US06743792B2
A solution of 4-chloro-3-(trifluoromethyl)benzeneacetonitrile (0.114 mol) in THF (100 ml) was added dropwise at RT to a solution of 1,2,3-trichloro-5-nitrobenzene (0.114 mol) and N,N,N-triethylbenzenemethanaminium chloride (3 g) in NaOH (150 ml) and THF (100 ml). The mixture was stirred at RT for 2 hours, then poured out on ice, acidified with a concentrated HCl solution and extracted with CH2Cl2. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was crystallized from DIPE. The precipitate was filtered off and dried, yielding 40.4 g (86.5%) of (±)-2,6-dichloro-α-[4-chloro-3-(trifluoromethyl)phenyl]-4-nitrobenzene-acetonitrile (interm. 1).

reactant | 4-chloro-3-(trifluoromethyl)benzeneacetonitrile | 0.114 mol | ClC1=C(C=C(C=C1)CC#N)C(F)(F)F | C9H5ClF3N
reactant | 1,2,3-trichloro-5-nitrobenzene | 0.114 mol | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)Cl | C6H2Cl3NO2
reactant | HCl | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | N,N,N-triethylbenzenemethanaminium chloride | 3 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | NaOH | 150 ml | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (±)-2,6-dichloro-α-[4-chloro-3-(trifluoromethyl)phenyl]-4-nitrobenzene-acetonitrile | 40.4 g, 86.5% | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)C(C#N)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H6Cl3F3N2O2
